### ISSUE TITLE
`(kernel) deep recursion detected` error with `BitVec.umulOverflow` in an if-then-else

### ISSUE THREAD

**Issue by alexkeizer** [leanprover/lean4#8898]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `mwe` theorem below gives a `(kernel) deep recursion` error. The MWE has various seemingly unrelated, yet load-bearing elements, e.g. (a) PoisonOr is a wrapper around Option, replacing uses of PoisonOr with Option makes the error disappear, and (b) the example has an if-then-else, removing it makes the error disappear. It's thus hard to point out what exactly triggers the error.

```lean
/-! # Preliminary -/

/--
`PoisonOr` is a simple wrapper around `Option`
-/
structure PoisonOr (α : Type) where
  toOption : Option α

namespace PoisonOr

def value : α → PoisonOr α := (⟨some ·⟩)

instance : Bind PoisonOr where
  bind := fun a f => match a with
    | ⟨none⟩    => ⟨none⟩
    | ⟨some a⟩  => f a

theorem bind_assoc (x : PoisonOr α) (f : α → PoisonOr β) (g : β → PoisonOr γ) :
    x >>= f >>= g = x >>= fun x => f x >>= g := by
  rcases x with (_|_) <;> rfl

end PoisonOr

/-! # MWE -/

def BitVec.umulOverflow' {w : Nat} (x y : BitVec w) : Prop :=
  x.toNat * y.toNat ≥ 0
  -- -----^
  -- Making this `+` has no effect, the error remains.
  --
  -- However, replacing `x.toNat` with a constant (even if large), does make the
  --   error disappear
  --
  -- Also note that the rhs was originally `2 ^ w`, but I've replaced it with
  -- `0` to rule out `2 ^ w` being computed. This had no effect on the error.

instance : DecidableRel (@BitVec.umulOverflow' w) := by
  unfold BitVec.umulOverflow';
  -- If we `sorry` out this instance, the error disappears
  -- sorry
  infer_instance


/-
The following gives the error:

  (kernel) deep recursion detected

-/
theorem mwe (x' : BitVec 32) :
    (do
      let _z ←
        (do
          let y' ← PoisonOr.value 0#32
          -- ----- ^^^^^^^^^^^^^^
          -- Replacing the `PoisonOr` wrapper with `Option` (in the whole MWE)
          -- makes the error disappear
          --
          if x'.umulOverflow' (65537#_) then
          -- ----------------- ^^^^^^^
          -- Making this constant smaller, or replacing it with a variable,
          -- makes the error disappear
          --
            PoisonOr.value 0#32
          else
            PoisonOr.value 0#32)
      PoisonOr.value 0) = PoisonOr.value 0 := by
  -- Running `simp only [ite_self]` first makes the error disappear
  --   (but is not applicable in my actual scenario, as the branches of the real
  --    code aren't the same)
  -- Similarly, rewriting the statement to not have the if-then-else also
  -- makes the error disappear.

  rw [PoisonOr.bind_assoc]
  -- ^^ This rewrite is what seems to trigger the recursion, removing it
  --    makes the error disappear.
  sorry
```

### Context

I've reported on Zulip as well: https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Tricky.20.60.28kernel.29.20deep.20recursion.20detected.60.20error/with/525032358

I ran a build through samply as well, which revealed that the offending functions are `lean::type_checker::{whnf, reduce_nat}` in `libleanshared.so`, which seems to suggest the core of the problem is the natural number multiplication being reduced.

I also tried to run through lean4lean, as suggested in the Zulip thread, but lean4lean seems to report only unrelated problems.

### Steps to Reproduce

1. Open up the MWE
2. Observer the kernel error

**Expected behavior:** The `mwe` theorem ought to be accepted

**Actual behavior:** A `(kernel) deep recursion detected` error occurs

### Versions

Lean 4.22.0-nightly-2025-06-20
Target: x86_64-unknown-linux-gnu

on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by tobiasgrosser** [comment]
This example also breaks, even without the `BitVec.umulOverflow`:

```lean
/-! # Preliminary -/

/--
`PoisonOr` is a simple wrapper around `Option`
-/
structure PoisonOr (α : Type) where
  toOption : Option α

namespace PoisonOr

def value : α → PoisonOr α := (⟨some ·⟩)

instance : Bind PoisonOr where
  bind := fun a f => match a with
    | ⟨none⟩    => ⟨none⟩
    | ⟨some a⟩  => f a

theorem bind_assoc (x : PoisonOr α) (f : α → PoisonOr β) (g : β → PoisonOr γ) :
    x >>= f >>= g = x >>= fun x => f x >>= g := by
  rcases x with (_|_) <;> rfl

end PoisonOr

/-! # MWE -/

theorem mwe (x' : BitVec 32) :
    (do
      let _z ←
        (do
          let y' ← PoisonOr.value 0#32
          if 0#32 ≤ x' * 66537#32 then
          -- ----------------- ^^^^^^^
          -- Making this constant smaller, or replacing it with a variable,
          -- makes the error disappear
          --
            PoisonOr.value 0#32
          else
            PoisonOr.value 1#32)
      PoisonOr.value 0#0) = PoisonOr.value 0#0 := by

  rw [PoisonOr.bind_assoc]
  -- rewrite [PoisonOr.bind_assoc] does also not help
  -- ^^ This rewrite is what seems to trigger the recursion, removing it
  --    makes the error disappear.
```

**Comment by eisbaw** [comment]
I was bitten by this quite a few times, so I had Claude Opus 4.6 1M chew on it to produce:
https://github.com/eisbaw/lean4/commit/5ea0633d0dc8a9f1ff14c5b5aa7f2e0e06d817ce 

But I must admit I can not assess if this has any gaps.
It does pass all the >3k tests, slightly faster even.

**Comment by eisbaw** [comment]
Even with my patch above, I hit another stack depth limit. This could not be turned to a loop, but with some pthread magic the stack can be bumped to 64MB (from 8MB default on my system) and that let the type check pass. I'll post my MWE and 2nd fix later.

fyi, nanoda typed checked the MWE ok without patches.
@alexkeizer have you tried nanoda?

**Comment by JuanCoRo** [comment]
Here is a minimized example that triggers it:
```lean
example (n : Nat) :
    (⟨BitVec.toNat (⟨⟨n * 23428 % 2, by grind⟩⟩ : BitVec 1), by grind⟩ : Fin 2)
      = ⟨0, by grind⟩ := by
  simp only [BitVec.toNat]
  sorry
```
Interestingly enough, if we have `n * 23427` instead of `n * 23428`, the error doesn't fire.
